US07589201B2
3-(1,4-Diazabicyclo[3.2.1]oct-4-ylcarbonyl)-1H-indazole hydrochloride 1:1
A 50 ml reactor is charged with 0.165 g (1.02 mmol) of 1H-indazole-3-carboxylic acid and 1 ml of thionyl chloride and the mixture is heated at ref lux for 1 h 30 min and concentrated under reduced pressure. Then 1.2 ml of pyridine and 0.30 g (2.67 mmol) of 1,4-diazabicyclo[3.2.1]octane are added and the mixture is heated at reflux for 1 h 30 min.

reactant | 1H-indazole-3-carboxylic acid | 1.02 mmol, 0.165 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1,4-diazabicyclo[3.2.1]octane | 2.67 mmol, 0.30 g | N12CCNC(CC1)C2 | C6H12N2
solvent | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
product | 3-(1,4-Diazabicyclo[3.2.1]oct-4-ylcarbonyl)-1H-indazole hydrochloride | Cl.N12CCN(C(CC1)C2)C(=O)C2=NNC1=CC=CC=C21 | InChI=1S/C14H16N4O.ClH/c19-14(18-8-7-17-6-5-10(18)9-17)13-11-3-1-2-4-12(11)15-16-13;/h1-4,10H,5-9H2,(H,15,16);1H
